US08309720B2
(5-Cyano-4-methyl-pyrimidin-2-yl)-carbamic acid tert-butyl ester
A 250 ml 3-neck flask was equipped with an overhead stirrer, thermocouple, reflux condenser and heating mantle. The flask was charged with (E)-2-acetyl-3-dimethylamino-acrylonitrile (8.93 g, 63.34 mmol), N-tert-butyloxycarbonyl-guanidine (10 g, 61.56 mmol) and 2-methyltetrahydrofuran (98.76 g). The resultant suspension was stirred and heated to reflux, whereupon the solids were observed to dissolve. The resultant mixture was stirred for about 6 hours, then concentrated by rotary evaporation to yield a solid which was triturated with water (120.00 g) to complete precipitation of the desired product. The resultant suspension was stirred for ˜30 minutes at ambient temperature, then filtered and the wet solid washed twice with water (120.00 g) and dried in a vacuum oven at 75-80° C. under a N2 bleed overnight to yield the title compound.

reactant | (E)-2-acetyl-3-dimethylamino-acrylonitrile | 63.34 mmol, 8.93 g | C(C)(=O)\C(\C#N)=C\N(C)C | C7H10N2O
reactant | N-tert-butyloxycarbonyl-guanidine | 61.56 mmol, 10 g | C(C)(C)(C)OC(=O)NC(=N)N | C6H13N3O2
reactant | 2-methyltetrahydrofuran | 98.76 g | CC1OCCC1 | C5H10O
product | (5-Cyano-4-methyl-pyrimidin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC=C(C(=N1)C)C#N)=O | C11H14N4O2
